US07875639B2
N-[(2Z )-3-cyclobutyl-4,5-dimethyl-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide
4,5-Dimethylthiazol-2-ylamine, bromocyclobutane and 1-adamantane carboxylic acid were processed according to the method of Example 47 to afford the title compound. 1H NMR (CDCl3, 500 MHz) δ ppm 0.43-0.53 (m, 3 H) 1.21-1.29 (m, J=7.18, 7.18 Hz, 1 H) 1.60-1.74 (m, J=15.60 Hz, 7 H) 1.82 (d, J=2.81 Hz, 6 H) 1.94-2.03 (m, 3 H) 2.17 (s, 3 H) 2.24 (s, 3 H) 4.06 (d, J=7.18 Hz, 2 H); MS (ESI) m/z 345 (M+H)+.

reactant | 4,5-Dimethylthiazol-2-ylamine | CC=1N=C(SC1C)N | C5H8N2S
reactant | bromocyclobutane | BrC1CCC1 | C4H7Br
reactant | 1-adamantane carboxylic acid | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
product | N-[(2Z )-3-cyclobutyl-4,5-dimethyl-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide | C1(CCC1)N1/C(/SC(=C1C)C)=N/C(=O)C12CC3CC(CC(C1)C3)C2 | C20H28N2OS
